US09029295B2
To a solution of 1-acetoxy-3-chloroacetone (5.0 g, 33.2 mmol) and 4-methylthiophenol (4.12 g, 33.2 mmol) in tert-butyl methyl ether (100 ml) was slowly added triethylamine (5.1 ml, 36.6 mmol) under ice-cooling. The solution was stirred at room temperature for 30 minutes. The reaction solution was washed with water, saturated aqueous sodium hydrogen carbonate solution, then saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=7:3) to give 7.72 g of 1-acetoxy-3-(4-methylphenylthio)acetone (yield: 97%) as oil.

reactant | 1-acetoxy-3-chloroacetone | 33.2 mmol, 5.0 g | C(C)(=O)OCC(=O)CCl | C5H7ClO3
reactant | 4-methylthiophenol | 33.2 mmol, 4.12 g | CC1=CC=C(C=C1)S | C7H8S
reactant | triethylamine | 36.6 mmol, 5.1 ml | C(C)N(CC)CC | C6H15N
solvent | tert-butyl methyl ether | 100 ml | COC(C)(C)C | C5H12O
product | 1-acetoxy-3-(4-methylphenylthio)acetone | 7.72 g, yield: 97% | C(C)(=O)OCC(=O)CSC1=CC=C(C=C1)C | C12H14O3S
